US05677293
Dissolve 16-dehydropregnenolone (5.00 g, 15.90 mmol) and 5,5-dibromobarbituric acid (4.55 g, 15.90 mmol) in tetrahydrofuran (60 mL). Add concentrated aqueous hydrogen bromide (100 μL of a 48% solution) to the stirring solution and heat the reaction at reflux for 1 hour. Cool slightly and then concentrate under vacuum to produce a brown oily foam. Dissolve the residue in methylene chloride (350 mL), rinse with 50% saturated sodium bicarbonate (2×200 mL), brine (125 mL), dry over anhydrous magnesium sulfate, filter and concentrate under vacuum to provide 21-bromo-3β-hydroxypregna-5,16-dien-20-one (6.53 g) as an orange-brown solid, slightly contaminated with starting material.

reactant | 16-dehydropregnenolone | 15.90 mmol, 5.00 g | CC(=O)C1=CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C21H30O2
reactant | 5,5-dibromobarbituric acid | 15.90 mmol, 4.55 g | BrC1(C(NC(NC1=O)=O)=O)Br | C4H2Br2N2O3
reactant | hydrogen bromide | Br | BrH
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 21-bromo-3β-hydroxypregna-5,16-dien-20-one | 6.53 g | BrCC(C1=CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)=O | C21H29BrO2
